US05216165
B) 4-[(7-Chloro-4-quinolinyl)amino]benzoic acid
4-[(7-Chloro-4-quinolinyl)amino]benzoic acid methyl ester hydrochloride (15.0 g, 43.0 mmol) is stirred in 150 mL of 1N KOH (aq) and refluxed for 1.5 hours, over which time the material dissolves. The hot solution is then poured into a 1 L Erlenmeyer flask containing a stirring solution of 107 mL of 1N HCl (aq) in 500 mL of water. A yellow solid forms immediately and the mixture is allowed to cool to room temperature. The solid is filtered and washed with cold methanol and ether, and allowed to air dry in the funnel, to afford 9.31 g (31.2 mmol, 73% yield) of product as a pale yellow solid: 1H NMR (Me2SO-d6, 300 MHz) δ12.6 (br s, 1H) 9.4 (br s, 1H), 8.58 (d, J=5.4 Hz, 1H), 8.40 (d, J=9.0 Hz, 1H), 7.94 (m, 3H), 7.6 (d of d, J=2.1, 9.3 Hz, 1H), 7.4 (d, J=8.7 Hz, 2H) 7.2 (d, J=5.6 Hz, 1H).

reactant | 4-[(7-Chloro-4-quinolinyl)amino]benzoic acid methyl ester hydrochloride | 43.0 mmol, 15.0 g | Cl.COC(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl)=O
reactant | HCl | 1N, 107 mL | Cl | ClH
solvent | KOH | 1N, 150 mL | [OH-].[K+]
solvent | water | 500 mL | O | H2O
product | 4-[(7-Chloro-4-quinolinyl)amino]benzoic acid | 31.2 mmol, 9.31 g, 73% yield | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)O)C=C1 | C16H11ClN2O2
